US07071216B2
To the solution of the methyl5-[3-nitro-4-(2,2,2-trifluroacetylamino)phenoxy]-pyridine-3-carboxylate (1 eq) in a mixture of toluene, acetonitrile and sodium hydroxide solution (50%) was added benzyltrimethylammonium chloride (1 eq) and dimethyl sulfate (1.2 eq). The biphasic mixture was stirred overnight at room temperature and evaporated. The mixture was taken up in ethyl acetate, washed with water, brine, dried and evaporated. The crude was purified by column chromatography to afford methyl4-[4-(methylamino)-3-nitrophenoxy]pyridine-3-carboxylate. MS: MH+=303.

reactant | methyl5-[3-nitro-4-(2,2,2-trifluroacetylamino)phenoxy]-pyridine-3-carboxylate | 1 eq | COC(=O)C=1C=NC=C(C1)OC1=CC(=C(C=C1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C15H10F3N3O6
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 1.2 eq | S(=O)(=O)(OC)OC | C2H6O4S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltrimethylammonium chloride | 1 eq | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
product | methyl4-[4-(methylamino)-3-nitrophenoxy]pyridine-3-carboxylate | COC(=O)C=1C=NC=CC1OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C14H13N3O5
